US06331640B1
N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(3-phenylpropanoyl)amino-L-alanine;
N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(3,5-dimethylisoxazol-4-yl)propanoyl]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[3-(piperidin-1-yl)propanoyl]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(3RS)-3-phenylbutanoyl]-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(3-cyclohexyl-(2S)-2-(1-pyrrolyl)propanoyl)]amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(trimethylacetyl)amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(2-methylpropanoyl)amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(3-methylbutanoyl)amino-L-alanine).

reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(3,5-dimethylisoxazol-4-yl)propanoyl]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(CCC=2C(=NOC2C)C)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C26H27ClN4O7
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[3-(piperidin-1-yl)propanoyl]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(CCN2CCCCC2)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C26H31ClN4O6
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(3RS)-3-phenylbutanoyl]-L-alanine | ClC1=C(C(=O)N[C@@H](CC(CC(C)C2=CC=CC=C2)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C28H27ClN2O6
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[(3-cyclohexyl-(2S)-2-(1-pyrrolyl)propanoyl)]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC([C@H](CC2CCCCC2)N2C=CC=C2)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C31H35ClN4O6
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(trimethylacetyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(C(C)(C)C)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C23H26ClN3O6
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(2-methylpropanoyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(C(C)C)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C22H24ClN3O6
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(3-methylbutanoyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(CC(C)C)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C23H26ClN3O6
product | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(3-phenylpropanoyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(CCC2=CC=CC=C2)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C27H26ClN3O6
